US05576322
4-(3,4-Methylenedioxybenzyl)amino-6-methylthioquinazoline
4.12 g (0.0196 mol) of 4-chloro-6-methylthioquinazoline, 3.70 g (0.0245 mol) of piperonylamine and 3.50 g (0.0330 mol) of sodium carbonate were mixed with 100 ml of isopropyl alcohol. The obtained mixture was heated under reflux for 24 hours and distilled under a reduced pressure to remove the solvent. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) and recrystallized from chloroform/n-hexane to give 5.32 g of the title compound as a pale-yellow crystal.

reactant | 4-chloro-6-methylthioquinazoline | 0.0196 mol, 4.12 g | ClC1=NC=NC2=CC=C(C=C12)SC | C9H7ClN2S
reactant | piperonylamine | 0.0245 mol, 3.70 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | sodium carbonate | 0.0330 mol, 3.50 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 4-(3,4-Methylenedioxybenzyl)amino-6-methylthioquinazoline | 5.32 g | C1OC=2C=C(CNC3=NC=NC4=CC=C(C=C34)SC)C=CC2O1 | C17H15N3O2S
